US06030991
4-Nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 4-nitrobenzenesulfonyl chloride according to the procedures described in Example 30. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 146-149° C., yield 34%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | 4-Nitro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 34% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrN3O5S
